### PR TITLE
[Merged by Bors] - feat(BigOperators/Finprod): add `finsum_cond_pos`

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 1]
```diff
@@ -507,14 +507,25 @@ theorem finprod_mem_congr (h₀ : s = t) (h₁ : ∀ x ∈ t, f x = g x) :
...
+    {f : ι → M} {p : ι → Prop} (h : ∀ i, p i → 1 ≤ f i) (h' : ∃ i, p i ∧ 1 < f i)
+    (hf : (mulSupport f ∩ {i | p i}).Finite) : 1 < ∏ᶠ (i) (_ : p i), f i := by
+  rw [finprod_cond_eq_prod_of_cond_iff (t := hf.toFinset)]
+  · apply Finset.one_lt_prod'
+    · simp +contextual [h]
+    · aesop
+  · simp +contextual
+
+@[to_additive finsum_pos]
 theorem one_lt_finprod' {M : Type*} [CommMonoid M] [PartialOrder M] [IsOrderedCancelMonoid M]
```
Comment (sgouezel) [inline Mathlib/Algebra/BigOperators/Finprod.lean]: Maybe remove the prime in this one also?
